Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PODIATRY
 
Allergies: 
NSAIDS (Non-Steroidal Anti-Inflammatory Drug) / Penicillins
 
Attending: ___.
 
Chief Complaint:
Left ___ Toe Infection; Right Foot Chronic Wound
 
Major Surgical or Invasive Procedure:
___: Right Foot Transmetatarsal amputation with ulcer 
excision, LEFT ___ Toe partial amputation, and Biopsy of LEFT 
Foot at ___ metatarsal head. 

 
History of Present Illness:
Ms. ___ ___ female with PMH DM c/b retinopathy,
peripheral neuropathy, anxiety, is now s/p right TMA, left
partial ___ digit amp, left ___ met head biopsy. 

She has a history of multiple issues involving her feet and is
currently having discomfort involving both feet. She has been
treated for the past ___ years by outside podiatrists in the
___, area. 

She presented to Dr. ___ at ___ for further evaluation. The
left foot has a questionable stress reaction/osteomyelitis
occurring within the ___ metatarsal; hence, the biopsy. She had
an MRI that was taken a few months ago. It was stated that she
had osteomyelitis, although she never had a wound in this region
of questionable osteomyelitis.  

As for the right foot, she has had a small ulcer sub third
metatarsal head for the past month or two, has been in and out 
of
wound care centers in the ___ region. MRI revealed 
moderate
degenerative changes about forefoot, midfoot but no over signs 
of
osteomyelitis. She reports neuropathy in both feet - worse in
right versus than left. Non-invasive arterial studies revealed
triphasic flow to all lower extremity arteries - low concern for
any vascular disease.

Of note, she recently lost 200 lbs with change in diet and
increase in physical exercise - notably running. She is
encouraged to lose 20 more pounds.

She was transferred to the PACU with all vital signs stable. She
is seen resting comfortably after transport to her room and is 
in
good spirits. Her pain is well controlled. She anticipates that
her right foot will begin to hurt soon. 
 
Past Medical History:
DM
Anxiety
Peripheral neuropathy
Retinopathy
Insomnia
Vitamin B12 deficiency
Trigger finger, right hand
Rosacea
___. diff infection

PSxH:
Multiple foot surgeries b/l   
Cholecystectomy
Cataract (Rx2, Lx1)
Tonsillectomy
Scar tissue removed from ears (ear infections)                 
 
Social History:
___
Family History:
Schizophrenia (Son)
 
Physical Exam:
===============================
Post-Op/Admission Physical Exam
===============================
VITAL SIGNS:
___ 1339 Temp: 97.3 PO BP: 136/85 HR: 82 RR: 18 O2 sat: 
100%
O2 delivery: RA 
GENERAL: AAOx3 and in NAD
CARDIAC: [x]RRR [x]no MRG []NL S1S2 [] abnormal
LUNGS: [x]No respiratory distress []abnormal 
ABD: [x]NBS [x]soft [x]nontender [x]nondistended [x]no rebound/
guarding
EXTREMITIES: Both lower extremities with dry, sterile, dressing
intact with no strikethrough noted; capillary refill time intact
to digits; patient able to actively dorsiflex/plantarflex left
remaining digits, ankles b/l

=======================
Discharge Physical Exam
=======================
Physical Exam:
Vitals:
___ 0743 Temp: 97.5 PO BP: 137/80 HR: 84 RR: 18 O2 sat: 
100%
FSBG: 114 
GENERAL: AAOx3 and in NAD
CV:  Normal rate
RESP:  No increased work of breathing 
EXTREMITIES: Both lower extremities with dry, sterile, dressing
intact with no strikethrough noted; once dressings taken down,
bilateral foot incisions are well coapted w/ sutures intact. No
surrounding erythema, proximal streaking or malodor noted.
Minimal sanguineous drainage noted from R TMA site. 
 
Pertinent Results:
=======
Imaging
=======
Bilateral Foot X-Ray (___):
Left foot: There has been prior amputation of the great toe at 
the head of the proximal phalanx. There has also been amputation 
of the second, third, and fourth toes at the level of the PIP 
joint.There is widening of the second MTP joint, sharp resection 
margin of the distal second metatarsal head, and soft tissue gas 
consistent with recent surgery.Old fracture deformity of the 
second metatarsal shaft is seen. There is prominent dorsal soft 
tissue swelling. 
  
Right foot: There has been transmetatarsal amputation at the 
metatarsal 
bases.There is overlying soft tissue swelling and focus of soft 
tissue gas 
compatible with recent surgery.  The bony margins appear 
sharp.There are 
degenerative changes at the TMT joints. 
  
IMPRESSION:  
Postsurgical changes of both feet as described above. 

___ 04:28AM BLOOD WBC-9.0 RBC-3.77* Hgb-10.5* Hct-32.1* 
MCV-85 MCH-27.9 MCHC-32.7 RDW-13.2 RDWSD-41.1 Plt ___
___ 04:28AM BLOOD Glucose-129* UreaN-26* Creat-0.8 Na-141 
K-4.5 Cl-109* HCO3-21* AnGap-11
___ 04:28AM BLOOD Calcium-9.1 Phos-4.5 Mg-1.7
___ 04:09AM BLOOD %HbA1c-8.0* eAG-183*
___ 04:28AM BLOOD WBC-9.0 RBC-3.77* Hgb-10.5* Hct-32.1* 
MCV-85 MCH-27.9 MCHC-32.7 RDW-13.2 RDWSD-41.1 Plt ___
___ 04:28AM BLOOD Glucose-129* UreaN-26* Creat-0.8 Na-141 
K-4.5 Cl-109* HCO3-21* AnGap-11
___ 04:28AM BLOOD Calcium-9.1 Phos-4.5 Mg-1.7
___ 04:09AM BLOOD %HbA1c-8.0* eAG-183*
 
Brief Hospital Course:
The patient presented as a same day admission for surgery. The 
patient was taken to the operating room on ___ for left ___ 
partial toe amputation, ___ metatarsal bone biopsy and right 
foot transmetatarsal amputation which the patient tolerated 
well. For full details of the procedure please see the 
separately dictated operative report. The patient was taken from 
the OR to the PACU in stable condition and after satisfactory 
recovery from anesthesia was transferred to the floor. The 
patient was initially given IV antibiotics, oral pain 
medications, and progressed to a regular diet and all oral 
medications by POD#2. The patient was given ___ 
antibiotics and anticoagulation per routine. The patient's home 
medications were continued throughout this hospitalization. The 
patient worked with ___ who determined that discharge to rehab 
was appropriate. The ___ hospital course was otherwise 
unremarkable.

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient is 
NWB to the RLE in a bivalve cast as well as heel WB to the LLE 
in a surgical shoe with crutches. The patient will follow up 
with Dr. ___ routine. A thorough discussion was had with 
the patient regarding the diagnosis and expected post-discharge 
course including reasons to call the office or return to the 
hospital, and all questions were answered. The patient was also 
given written instructions concerning precautionary instructions 
and the appropriate follow-up care. The patient expressed 
readiness for discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 5 mg PO DAILY 
2. ALPRAZolam 1 mg PO QHS 
3. MetFORMIN (Glucophage) 1000 mg PO BID 
4. Pregabalin 225 mg PO BID 
5. liraglutide 0.6 mg/0.1 mL (18 mg/3 mL) subcutaneous QAM 
6. Glargine 14 Units Bedtime
7. HYDROcodone-acetaminophen 7.5-325 mg oral TID:PRN Pain 

 
Discharge Medications:
1.  Clindamycin 300 mg PO Q8H 
RX *clindamycin HCl 300 mg 1 capsule(s) by mouth three times a 
day Disp #*30 Capsule Refills:*0 
2.  Docusate Sodium 100 mg PO BID:PRN Constipation - First Line 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*30 Capsule Refills:*0 
3.  HYDROcodone-acetaminophen 7.5-325 mg oral TID PRN 
RX *hydrocodone-acetaminophen 7.5 mg-325 mg 1 tablet(s) by mouth 
four times a day Disp #*15 Tablet Refills:*0 
4.  Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 
RX *ondansetron 4 mg 1 tablet(s) by mouth Every 8 hours Disp 
#*20 Tablet Refills:*0 
5.  Glargine 14 Units Bedtime 
6.  ALPRAZolam 1 mg PO QHS  
7.  liraglutide 0.6 mg/0.1 mL (18 mg/3 mL) subcutaneous QAM  
8.  Lisinopril 5 mg PO DAILY  
9.  MetFORMIN (Glucophage) 1000 mg PO BID  
10.  Pregabalin 225 mg PO BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Left ___ Toe Infection/Chronic Wound; Right Foot Chronic Wound

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
It was a pleasure taking care of you at ___. You were admitted 
to the Podiatric Surgery service after your foot surgery. You 
were given IV antibiotics while here. You are being discharged 
home with the following instructions:

ACTIVITY:
There are restrictions on activity. Please remain non weight 
bearing to your right foot and only put weight on the heel of 
your left foot until your follow up appointment. You should keep 
this site elevated when ever possible (above the level of the 
heart!)
No driving until cleared by your Surgeon.

PLEASE CALL US IMMEDIATELY FOR ANY OF THE FOLLOWING PROBLEMS:
Redness in or drainage from your leg wound(s).
New pain, numbness or discoloration of your foot or toes.
Watch for signs and symptoms of infection. These are: a fever 
greater than 101 degrees, chills, increased redness, or pus 
draining from the incision site. If you experience any of these 
or bleeding at the incision site, CALL THE DOCTOR.

EXERCISE:
Limit strenuous activity for 6 weeks.
No heavy lifting greater than 20 pounds for the next ___ days.
Try to keep leg elevated when able.

BATHING/SHOWERING:
You may shower immediately upon coming home, but you must keep 
your dressing CLEAN, DRY and INTACT. You can use a shower bag 
taped around your ankle/leg or hang your foot/leg outside of the 
bathtub.
Avoid taking a tub bath, swimming, or soaking in a hot tub for 4 
weeks after surgery or until cleared by your physician.

MEDICATIONS:
Unless told otherwise you should resume taking all of the 
medications you were taking before surgery.
Remember that narcotic pain meds can be constipating and you 
should increase the fluid and bulk foods in your diet. (Check 
with your physician if you have fluid restrictions.) If you feel 
that you are constipated, do not strain at the toilet. You may 
use over the counter Metamucil or Milk of Magnesia. Appetite 
suppression may occur; this will improve with time. Eat small 
balanced meals throughout the day.

DIET:
There are no special restrictions on your diet postoperatively. 
Poor appetite is not unusual for several weeks and small, 
frequent meals may be preferred.

FOLLOW-UP APPOINTMENTS:
Be sure to keep your medical appointments.
Please follow up with your Podiatric Surgeon, Dr. ___. If a 
follow up appointment was not made prior to your discharge, 
please call the office on the first working day after your 
discharge from the hospital to schedule a follow-up visit (Phone 
Number: ___. This should be scheduled on the calendar 
for seven to fourteen days after discharge. Normal office hours 
are ___ through ___.

Please follow up with your primary care doctor regarding this 
admission within ___ weeks and for and any new 
medications/refills.

PLEASE FEEL FREE TO CALL THE OFFICE WITH ANY OTHER CONCERNS OR 
QUESTIONS THAT MIGHT ARISE.

 
Followup Instructions:
___